US08012606B2
To a mixture of 1200 ml of anisole and 800 ml of THF were added 69.7 g (0.254 mole) of 2,7-dinitrodibenzodioxin and 22.2 g of 10% palladium/carbon and hydrogen gas was passed through the mixture with stirring at room temperature for 8 hours. The 10% palladium/carbon was removed by filtration, then a precipitate containing the 10% palladium/carbon was collected by filtration, and the precipitate was rinsed with THF. The rinsings were concentrated and dried under reduced pressure to give 25.0 g (0.117 mole, 46.0% yield) of 2,7-diaminodibenzodioxin. The product showed a purity of 98.1% (HPLC, 254 nm).

reactant | anisole | 1200 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 2,7-dinitrodibenzodioxin | 0.254 mole, 69.7 g | [N+](=O)([O-])C1=CC2=C(OC3=C(O2)C=CC(=C3)[N+](=O)[O-])C=C1 | C12H6N2O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 22.2 g | [Pd] | Pd
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | 2,7-diaminodibenzodioxin | 0.117 mole, 25.0 g, 46.0% yield | NC1=CC2=C(OC3=C(O2)C=CC(=C3)N)C=C1 | C12H10N2O2
